US08580957B2
A mixture of (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinamine di-hydrochloride (for a preparation see intermediate 61) (250 mg, 0.700 mmol), sodium tert-butoxide (336 mg, 3.50 mmol), 2-bromo-5-methylpyridine (132 mg, 0.770 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (55.0 mg, 0.140 mmol) and tris(dibenzylideneacetone)dipalladium(0) (64.1 mg, 0.070 mmol) was stirred in toluene (12 mL) at 75° C. under nitrogen for 5 h. An extra portion of sodium tert-butoxyde (81 mg, 0.84 mmol), Davephos (55.0 mg, 0.140 mmol) and tris(dibenzylideneacetone)dipalladium(0) (64.1 mg, 0.070 mmol) was added after having cooled the mixture down and the resulting mixture was stirred at 85° C. for 60 h under nitrogen, then cooled to room temperature and filtered through celite. The insoluble material was rinsed with DCM, stirred in 5% MeOH in DCM (100 mL) then filtered off. The combined filtrate and washings were concentrated in vacuo. Purification of the residue by flash chromatography on silica gel using a 20 G silica cartridge (gradient:0 to 3% MeOH in DCM) gave a residue which was dissolved in AcOEt. The resulting solution was treated with HCl (1.0M in Et2O, 3 mL) then concentrated in vacuo. Trituration of the residue with Et2O gave (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (143 mg, 0.347 mmol, 50%) as an off white solid.

reactant | (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinamine di-hydrochloride | Cl.Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)N1C=NC(=C1)C)N)C
reactant | sodium tert-butoxide | 3.50 mmol, 336 mg | CC(C)([O-])C.[Na+]
reactant | 2-bromo-5-methylpyridine | 0.770 mmol, 132 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.140 mmol, 55.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium | [Na] | Na
reactant | Davephos | 0.140 mmol, 55.0 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | HCl | 1.0M, 3 mL | Cl | ClH
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.070 mmol, 64.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.070 mmol, 64.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Et2O | CCOCC | C4H10O
product | (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 0.347 mmol, 143 mg, 50% | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)N1C=NC(=C1)C)NC1=NC=C(C=C1)C)C | InChI=1S/C22H25N5O.ClH/c1-14-5-8-22(23-11-14)25-20-9-16(3)27(17(4)28)21-7-6-18(10-19(20)21)26-12-15(2)24-13-26;/h5-8,10-13,16,20H,9H2,1-4H3,(H,23,25);1H/t16-,20+;/m0./s1
